US08871753B2
Step B: Methyl 3-bromo-5-nitrobenzoate
A solution of 3-bromo-5-nitrobenzoic acid (15.4 g, 62.6 mmol) in methanol (120 mL) and sulfuric acid (1.7 mL, 31 mmol) was heated to reflux overnight. After cooling to 0° C. for 0.5 h, the precipitated solid was filtered to give the desired product as a white solid (15.5 g, 95%). LCMS for C8H7BrNO4 (M+H)+: m/z=260.0, 262.0.

reactant | 3-bromo-5-nitrobenzoic acid | 62.6 mmol, 15.4 g | BrC=1C=C(C(=O)O)C=C(C1)[N+](=O)[O-] | C7H4BrNO4
reactant | sulfuric acid | 31 mmol, 1.7 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 120 mL | CO | CH4O
product | Methyl 3-bromo-5-nitrobenzoate | 15.5 g, 95% | BrC=1C=C(C(=O)OC)C=C(C1)[N+](=O)[O-] | C8H6BrNO4
